US09108938B2
2,3-Dichloro-N-[2-(6-cyclopropyl-pyridin-3-yl)-2-morpholin-4-yl-ethyl]-benzamide
From 2,3-dichlorobenzoic acid and 2-(6-cyclopropyl-pyridin-3-yl)-2-morpholin-4-yl-ethylamine.

reactant | 2,3-dichlorobenzoic acid | ClC1=C(C(=O)O)C=CC=C1Cl | C7H4Cl2O2
reactant | 2-(6-cyclopropyl-pyridin-3-yl)-2-morpholin-4-yl-ethylamine | C1(CC1)C1=CC=C(C=N1)C(CN)N1CCOCC1 | C14H21N3O
product | 2,3-Dichloro-N-[2-(6-cyclopropyl-pyridin-3-yl)-2-morpholin-4-yl-ethyl]-benzamide | ClC1=C(C(=O)NCC(N2CCOCC2)C=2C=NC(=CC2)C2CC2)C=CC=C1Cl | C21H23Cl2N3O2
